US08071595B2
To a solution of 2-(4-(quinolin-2-ylmethoxy)phenyl)acetic acid (3.0 g, 0.01 mol) in acetonitrile (40 mL) were added TEA (1.3 mL, 0.01 mol) and 2-bromo-1-(pyridin-4-yl)ethanone hydrobromide (2.86 g, 0.01 mol) at RT under an inert atmosphere. The reaction mixture was stirred for 1 h followed by addition of DBU (46.6 g, 0.03 mol) at 0° C. and stirring was continued for another 2 h at 0° C. The reaction mixture was quenched with HCl (1 N), aqueous layer was basified with NaHCO3 solution and extracted with DCM (2×50 mL). The combined organic layers were washed with water, dried over Na2SO4 and concentrated in vacuo to obtain the crude product. The crude product was purified via silica gel column chromatography eluting with 25% EtOAc in hexanes to afford 4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)furan-2(5H)-one (600 mg, 15%) as a solid.

reactant | 2-(4-(quinolin-2-ylmethoxy)phenyl)acetic acid | 0.01 mol, 3.0 g | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)CC(=O)O | C18H15NO3
reactant | 2-bromo-1-(pyridin-4-yl)ethanone hydrobromide | 0.01 mol, 2.86 g | Br.BrCC(=O)C1=CC=NC=C1
reactant | DBU | 0.03 mol, 46.6 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 40 mL | C(C)#N | C2H3N
product | 4-(pyridin-4-yl)-3-(4-(quinolin-2-ylmethoxy)phenyl)furan-2(5H)-one | 600 mg, 15% | N1=CC=C(C=C1)C1=C(C(OC1)=O)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C25H18N2O3
